US08030499B2
Step 234-1: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxybenzyl)-1,3-dihydro-2H-indol-2-one
With 4.50 g of 2-methoxybenzyl chloride and 4.34 g of 5-chloroisatin as starting materials, 2.19 g of the title compound (orange red solid) was obtained by a similar method to Step 21-1.

reactant | 2-methoxybenzyl chloride | 4.50 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
reactant | 5-chloroisatin | 4.34 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(2-methoxybenzyl)-1,3-dihydro-2H-indol-2-one | 2.19 g | ClC=1C=C2C(C(NC2=CC1)=O)(CC1=C(C=CC=C1)OC)O | C16H14ClNO3
